* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\SensorAmplification.asc
XU1 N003 N005 V_OUT opamp Aol=100K GBW=10Meg
R1 V_OUT N003 4k
R2 N005 N002 10K
C1 N005 0 0.1µ
V1 N001 0 SINE(1.5 0.5 10)
R4 N003 0 1k
V2 N004 0 SINE(0 0.1 1k)
R6 N002 N004 1
R7 N002 N001 1
XU2 N005 N006 VCC 0 N007 LMX58_LM2904
R3 N007 N006 4k
R5 N006 0 1k
V3 VCC 0 12
.lib opamp.sub
.tran 0.1
.lib C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\LMx58_LM2904.SUBCKT
.backanno
.end
